US04415580
A mixture containing 34 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxamide and 150 ml of hydrazine hydrate was heated on a steam bath for 18 hours and then stripped to dryness on a steam bath. To the residue was added 100 ml of water and the aqueous mixture was neutralized by adding acetic acid. The fine yellow needles were collected, washed successively with water and methanol, and then dried at 90° C. to produce 32.6 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxylic acid hydrazide, m.p. >310° C.

reactant | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxamide | 34 g | CC1=C2C=C(C(NC2=CC=N1)=O)C(=O)N | C10H9N3O2
reactant | hydrazine hydrate | 150 ml | O.NN
reactant | water | 100 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carboxylic acid hydrazide | 32.6 g | CC1=C2C=C(C(NC2=CC=N1)=O)C(=O)NN | C10H10N4O2
